US07592342B2
Preparation of N,N-dimethyl-4-piperidinesulfonamide
A solution of phenylmethyl 4-[(dimethylamino)sulfonyl]-1-piperidinecarboxylate (1.19 mmol) and 10% wt palladium/carbon (0.09 mmol) in methanol (10 ml) was vacuum pumped and back-filled with nitrogen three times. The nitrogen atmosphere was then replaced with hydrogen via a balloon and the reaction stirred for 1 hour at ambient temperature. The reaction was then filtered through a pad of celite and concentrated to give the title compound (200 mg, 87% yield), which was used directly in the next reaction without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.33 (bs, 1H) 3.30-3.22 (m, 1H) 2.96 (d, J=12.13, 2H) 2.84 (s, 6H) 2.46 (td, J=2.53, 12.38, 2H) 1.80 (d, J=12.13, 2H) 1.46 (qt, J=4.17, 12.34, 2H)

reactant | phenylmethyl 4-[(dimethylamino)sulfonyl]-1-piperidinecarboxylate | 1.19 mmol | CN(S(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C15H22N2O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium/carbon | 0.09 mmol | [Pd] | Pd
product | N,N-dimethyl-4-piperidinesulfonamide | 200 mg, 87% yield | CN(S(=O)(=O)C1CCNCC1)C | C7H16N2O2S
